US08648068B2
68.1 4-{4-Methyl-2-[(S)-1-(2,2,2-trifluoro-acetyl)-piperidin-3-yloxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester
Prepared analogously to example 65.1. from 4-chloro-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester and (S)-1-(3-(2-amino-5-methylphenoxy)piperidin-1-yl)-2,2,2-trifluoroethanone

reactant | 4-chloro-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2Cl)S1)C | C9H7ClN2O2S
reactant | (S)-1-(3-(2-amino-5-methylphenoxy)piperidin-1-yl)-2,2,2-trifluoroethanone | NC1=C(O[C@@H]2CN(CCC2)C(C(F)(F)F)=O)C=C(C=C1)C | C14H17F3N2O2
product | 4-{4-Methyl-2-[(S)-1-(2,2,2-trifluoro-acetyl)-piperidin-3-yloxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)C)O[C@@H]2CN(CCC2)C(C(F)(F)F)=O)S1)C | C23H23F3N4O4S
